US07084178B2
trans-2-[(4- Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound (34 mg) was prepared in 45% yield from trans-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide and 1-bromomethyl-4-trifluoromethyl-benzene according to the N-alkylation procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.77 (d, 2 H, J=8.0 Hz), 7.65 (d, 2 H, J=8.0 Hz), 7.57 (m, 3 H), 7.45 (d, 2 H, J=12.0 Hz), 7.35 (s, 1 H), 6.80 (s, 1H), 4.44 (AB2,2 H,ΔV=16,Jab=84 Hz), 4.01 (m, 1 H), 1.39 (m, 8 H); MS m/e 475.04 (M+H)+.

reactant | trans-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethyl-benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | trans-2-[(4- Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cyclohexanecarboxylic acid amide | 34 mg, 45% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)C(F)(F)F | C21H22ClF3N2O3S
